US07112594B2
N-[3-cyano-4-(4-hydroxypiperidin-1-yl)phenyl]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
By the reaction and treatment in the same manner as in Example 6 using 4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (1.2 g) and 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile (1.3 g), the title compound (1.2 g) was obtained. melting point: 172-173° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | 1.2 g | S1C2=C(C(=C1)C(=O)O)CCCC2 | C9H10O2S
reactant | 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile | 1.3 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C12H15N3O
product | N-[3-cyano-4-(4-hydroxypiperidin-1-yl)phenyl]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 1.2 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O)NC(=O)C=1C2=C(SC1)CCCC2 | C21H23N3O2S
